US09382226B2
Step A. 2-bromo-5-(methylamino)-4-nitrobenzonitrile
To a stirred solution of 3-(methylamino)-4-nitrobenzonitrile (0.9 g, 0.005 mol) and NBS (0.9 g, 0.005 mol) in DMF (15 ml), AIBN (catalytic) was carefully added and the resulting solution was stirred at 80° C. for 3 h. The reaction was diluted with H2O and extracted with dichloromethane (3×30 ml). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under vacuum to afford the title compound 2-bromo-5-(methylamino)-4-nitrobenzonitrile as a yellow solid. 1H NMR (400 MHz, CDCl3), δ: 8.44 (s, 1H), 8.04 (bs, 1H), 7.18 (s, 1H), 3.05 (s, 3H). MS (M+1): 256.12.

reactant | 3-(methylamino)-4-nitrobenzonitrile | 0.005 mol, 0.9 g | CNC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H7N3O2
reactant | NBS | 0.005 mol, 0.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | H2O | O | H2O
product | 2-bromo-5-(methylamino)-4-nitrobenzonitrile | BrC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])NC | C8H6BrN3O2
